US07125896B2
a) 2-Amino-3-thiophenecarboxamide
A suspension of 2,5-dihydroxy-1,4-dithiane (25 g) and cyanoacetamide (19.3 g) in ethanol (120 ml) was stirred and heated to 50° C. Triethylamine (9.2 ml) was added over 15 minutes and the mixture was stirred at 50° C. for a further 2 h. After cooling in ice, the solid was filtered off and dried (21.4 g).

reactant | 2,5-dihydroxy-1,4-dithiane | 25 g | OC1SCC(SC1)O | C4H8O2S2
reactant | cyanoacetamide | 19.3 g | C(#N)CC(=O)N | C3H4N2O
reactant | Triethylamine | 9.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-Amino-3-thiophenecarboxamide | NC=1SC=CC1C(=O)N | C5H6N2OS
